US08193228B2
[Bis(trifluoroacetoxy)iodo]benzene (184 mg, 0.48 mmol) was added to a 0° C. solution of 4-(2,2-dimethylbutyl)-2-{hydroxy[2-(4-pyridin-2-ylphenyl)-1,3-dithian-2-yl]methyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (110 mg, 0.20 mmol) in acetonitrile/water (3:1) (4 mL). After stirring at 0° C. until no further reaction (LCMS), the reaction mixture was quenched with saturated aqueous sodium thiosulfate/saturated aqueous sodium bicarbonate (1:1) and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo to afford 4-(2,2-dimethylbutyl)-2-[1-hydroxy-2-oxo-2-(4-pyridin-2-ylphenyl)ethyl]-N,N-dimethyl-1H-imidazole-1-sulfonamide which was used in the next step without further purification.

reactant | [Bis(trifluoroacetoxy)iodo]benzene | 0.48 mmol, 184 mg | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | 4-(2,2-dimethylbutyl)-2-{hydroxy[2-(4-pyridin-2-ylphenyl)-1,3-dithian-2-yl]methyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.20 mmol, 110 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(C1(SCCCS1)C1=CC=C(C=C1)C1=NC=CC=C1)O)(CC)C | C27H36N4O3S3
solvent | acetonitrile water | 4 mL | C(C)#N.O
product | 4-(2,2-dimethylbutyl)-2-[1-hydroxy-2-oxo-2-(4-pyridin-2-ylphenyl)ethyl]-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(C(C1=CC=C(C=C1)C1=NC=CC=C1)=O)O)(CC)C | C24H30N4O4S
